Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
S/P craniectomy, skull defect
 
Major Surgical or Invasive Procedure:
___: Right cranioplasty
___: removal of PEG tube

 
History of Present Illness:
___ 4 months s/p emergent hemicraniectomy for intraparenchymal 
hemorrhage. Patient has since done well from a neurologic 
standpoint with good overall function. She now presents 
electively for a right-sided cranioplasty. 
 
Past Medical History:
Right craniectomy for IPH (___)
Tracheostomy - decannulated ___
PEG tube placement (___)

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ON DISCHARGE:
Opens eyes: [x]Spontaneous [ ]To voice [ ]To noxious
-Improving R ___ edema

Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 3-2mm 
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Pronator Drift: [ ]Yes [x]No   
Speech Fluent: [x]Yes [ ]No     
Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

Wound: 
[x]Incision closed with staples 
[x]Clean, dry, intact - no active or expressed drainage
appreciated

 
Pertinent Results:
Please see OMR for pertinent lab results and imaging.
 
Brief Hospital Course:
Patient presented for right cranioplasty on ___. She 
tolerated the procedure well with no issues and was taken to the 
PACU after extubation. She was then admitted to the floor with 
neuro checks every 4 hours. She had a subgaleal JP drain to bulb 
suction that was removed on ___. On ___ (POD#1), she had a 
post-operative NCHCT that showed some acute intracranial blood. 
SQH for DVT prophylaxis was started ___. She had a repeat NCHCT 
on ___ which was stable. Her home ASA 81 mg was resumed POD#2. 
ACS was consulted during her inpatient stay and PEG tube was 
removed as she was tolerating a regular diet at home prior to 
admission.

___ and OT were consulted for recommendations regarding 
disposition and recommended discharge home. 

At the time of discharge, patient was tolerating a regular diet, 
voiding, and neurologically stable. The patient was given 
appropriate prescriptions and instructions to follow-up in 
clinic. She was discharged to home on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. LevETIRAcetam 750 mg PO BID 
3. Metoprolol Tartrate 75 mg PO TID 
4. QUEtiapine Fumarate 100 mg PO QHS 
5. QUEtiapine Fumarate 25 mg PO BID 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
patient may request partial fill 
RX *oxycodone 5 mg 0.5 - 1 tablet(s) by mouth Q4H prn Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  FLUoxetine 20 mg PO DAILY  
5.  LevETIRAcetam 750 mg PO BID  
6.  Metoprolol Tartrate 75 mg PO TID  
7.  QUEtiapine Fumarate 100 mg PO QHS  
8.  QUEtiapine Fumarate 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cranial defect

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Cranioplasty

Surgery
_x0095_You underwent surgery to have your skull bone placed back on. 
_x0095_Please keep your sutures along your incision dry until they are 
removed.
_x0095_It is best to keep your incision open to air but it is ok to 
cover it when outside. 
_x0095_Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
_x0095_We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
_x0095_You make take leisurely walks and slowly increase your activity 
at your own pace once you are symptom free at rest. ___ try to 
do too much all at once.
_x0095_No driving while taking any narcotic or sedating medication. 
_x0095_If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
_x0095_No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
_x0095_Please do NOT take any blood thinning medication (Ibuprofen, 
Plavix, Coumadin) until cleared by the neurosurgeon. 
_x0095_You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
_x0095_You may use Acetaminophen (Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.

What You ___ Experience:
_x0095_Headache or pain along your incision. 
_x0095_You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
_x0095_You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
_x0095_Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the incision 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
_x0095_Sudden numbness or weakness in the face, arm, or leg
_x0095_Sudden confusion or trouble speaking or understanding
_x0095_Sudden trouble walking, dizziness, or loss of balance or 
coordination
_x0095_Sudden severe headaches with no known reason

 
Followup Instructions:
___